US08053438B2
STEP 3: N-(4-(3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)BENZO[D]THIAZOL-2-AMINE
To a solution of 2-fluoro-3-(4-fluorotetrahydro-2H-pyran-4-yl)pyrazine (0.055 g, 0.275 mmol) and 4-(benzo[d]thiazol-2-ylamino)phenol (0.100 g, 0.412 mmol) in DMSO (0.9 mL) was added cesium carbonate (0.179 g, 0.549 mmol). The resulting mixture was heated to 80° C. overnight. The reaction mixture was partitioned between water, brine and DCM. The aqueous layer was back extracted with DCM and the combined organic layer was dried (Na2SO4) and concentrated. Purification by prep-plate TLC (5% MeOH/DCM) produced product. MS (ESI, pos. ion) m/z: 423.0 (M+1). IC50 (uM) +++++.

reactant | 2-fluoro-3-(4-fluorotetrahydro-2H-pyran-4-yl)pyrazine | 0.275 mmol, 0.055 g | FC1=NC=CN=C1C1(CCOCC1)F | C9H10F2N2O
reactant | 4-(benzo[d]thiazol-2-ylamino)phenol | 0.412 mmol, 0.100 g | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)O | C13H10N2OS
reactant | cesium carbonate | 0.549 mmol, 0.179 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 0.9 mL | CS(=O)C | C2H6OS
product | N-(4-(3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)BENZO[D]THIAZOL-2-AMINE | FC1(CCOCC1)C=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C22H19FN4O2S
